US05173493
Acetic anhydride (1.26 g) was added to a solution of 8,9-dihydro-7-[(hydroxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (1.34 g, a mixture of the isomers A and B) in pyridine (20 ml). After being stirred at 60° C. for 2 hours, the solution was evaporated in vacuo. The residue obtained was diluted with chloroform and neutralized with an aqueous sodium hydrogencarbonate solution. The separated organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo to give 7-[(acetoxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one as an oil, which was used in the next reaction without purification.

reactant | Acetic anhydride | 1.26 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 8,9-dihydro-7-[(hydroxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | OC(C1CCC=2N(C3=CC=CC=C3C2)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31N3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-[(acetoxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one | C(C)(=O)OC(C1CCC=2N(C3=CC=CC=C3C2)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H33N3O3
